US08633226B2
Step 2: (±)-tert-Butyl 4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate
A solution of 4-bromochlorobenzene (136.6 g, 0.71 mol) in anhydrous THF (1000 mL) was cooled to −78° C., and then treated dropwise with a 1.6 M solution of n-butyllithium in hexanes (466 mL, 0.75 mol) at a rate which maintained the internal temperature below −60° C. The resulting mixture was stirred at −78° C. for 1.5 hours, during which a precipitate was observed. The resulting suspension was treated dropwise with a solution of tert-butyl 3,3-dimethyl-4-oxopiperidine-1-carboxy late (73.7 g, 0.32 mol) in anhydrous THF (400 mL) at a rate which maintained the internal temperature below −60° C. The mixture was stirred at −78° C. for 2 hours, during which a clear solution was observed. The reaction mixture was quenched with saturated ammonium chloride (300 mL) and the resulting mixture was allowed to come to room temperature. The aqueous and organic layers were separated, and the organic phase was concentrated in vacuo to yield a residue. The aqueous phase was extracted 2× with ethyl acetate (300 mL). The combined extracts were added to the residue from the original organic phase, and the resulting mixture was diluted to 1200 mL with ethyl acetate. The resulting solution was washed 2× with water (300 mL), once with brine, dried over sodium sulfate, and concentrated in vacuo to yield a residue. The residue was digested with boiling hexanes (300 mL), and the resulting suspension was cooled to room temperature. Once at the prescribed temperature, white solids were collected by filtration, and washed 2× with hexanes and then air dried to yield the title compound as a powder (93.7 g, 85% yield).

reactant | 4-bromochlorobenzene | 0.71 mol, 136.6 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-butyl 3,3-dimethyl-4-oxopiperidine-1-carboxy late | 0.32 mol, 73.7 g | CC1(CN(CCC1=O)C(=O)OC(C)(C)C)C | C12H21NO3
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (±)-tert-Butyl 4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate | 93.7 g, 85% yield | ClC1=CC=C(C=C1)C1(C(CN(CC1)C(=O)OC(C)(C)C)(C)C)O | C18H26ClNO3
